US04409214
Ethyl 2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetate (syn isomer) (2.5 g) was added to 1 N aqueous sodium hydroxide (14 ml), and the solution was stirred at ambient temperature for an hour. The reaction mixture was adjusted to pH 1.8 with 10% hydrochloric acid, salted out with sodium chloride, and then extracted with a mixture of ethyl acetate and tetrahydrofuran. After drying over anhydrous magnesium sulfate, the extract was evaporated to dryness to give a residue, which was washed with diisopropyl ether to obtain 2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetic acid (syn isomer) (2.0 g).

reactant | Ethyl 2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetate | 2.5 g | NC1=NC(=NO1)C(C(=O)OCC)=NOC | C7H10N4O4
reactant | sodium hydroxide | 1 N, 14 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
product | 2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetic acid | 2.0 g | NC1=NC(=NO1)C(C(=O)O)=NOC | C5H6N4O4
